US07425568B2
3-Methyl-2-phenylchroman-4,6-diol was prepared as described for 2-phenylchroman-4,6-diol in Example 8(a) starting from 474 mg of 6-hydroxy-3-methyl-2-phenylchroman-4-one. 1H NMR (300 MHz, d6-DMSO) δ: 8.79 (s, 1H), 7.42-7.33 (m, 5H), 6.88 (bs, 1H), 6.53 (m, 2H), 5.37 (d, 1H, J 8.0 Hz), 4.70 (d, 1H, J 10.6 Hz), 1.94 (m, 1H), 0.73 (d, 3H, J 6.7 Hz).

reactant | 2-phenylchroman-4,6-diol | C1(=CC=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H14O3
reactant | 6-hydroxy-3-methyl-2-phenylchroman-4-one | 474 mg | OC=1C=C2C(C(C(OC2=CC1)C1=CC=CC=C1)C)=O | C16H14O3
product | 3-Methyl-2-phenylchroman-4,6-diol | CC1C(OC2=CC=C(C=C2C1O)O)C1=CC=CC=C1 | C16H16O3
